* Block 08: Mode Control — v11 (vref-referenced inverter threshold)
* PVDD 5V LDO Regulator — SkyWater SKY130A
*
* Each comp: PFET pull-up from PVDD + NFET with source=vref (not GND).
* Trip at tap = vref + Vth_n ≈ 1.226 + 0.789 = 2.015V (+ body effect ~2.1V)
* Shared ladder with ratios so tap reaches ~2.1V at each BVDD threshold.
* Ratios boosted ~15% to compensate RC lag.
*
* trip ≈ 2.1V (estimated with body effect from Vsb=vref=1.226V)
* ratio1 = 2.1/2.5*1.12 = 0.94 (boosted for RC lag)
* ratio2 = 2.1/4.2*1.12 = 0.56
* ratio3 = 2.1/4.5*1.12 = 0.52
* ratio4 = 2.1/5.6*1.12 = 0.42
*
* R_ladder ~300kΩ total (l_tot~142µm)
*   Rbot/Rtot = 0.42 → l=60µm
*   R34 = 0.10 → l=14µm
*   R23 = 0.04 → l=6µm
*   R12 = 0.38 → l=54µm
*   Rtop = 0.06 → l=8µm
*
.subckt mode_control bvdd pvdd svdd gnd vref en_ret bypass_en ea_en ref_sel uvov_en ilim_en pass_off

* =============================================
* RESISTOR LADDER (~300kΩ, ~23µA at 7V from BVDD)
* =============================================
* Ladder ~350kΩ (Iq ~20µA at 7V). Ratios boosted ~30% for RC lag compensation.
* target ratios: r1=0.96, r2=0.60, r3=0.56, r4=0.45
* Rbot=0.45*166=75, R34=0.11*166=18, R23=0.04*166=7, R12=0.36*166=60, Rtop=0.04*166=7
* Ladder ~400kΩ (Iq ~17.5µA at 7V). Scale all by 1.14x
XRtop bvdd tap1 gnd sky130_fd_pr__res_xhigh_po w=1 l=8
XR12  tap1 tap2 gnd sky130_fd_pr__res_xhigh_po w=1 l=68
XR23  tap2 tap3 gnd sky130_fd_pr__res_xhigh_po w=1 l=8
XR34  tap3 tap4 gnd sky130_fd_pr__res_xhigh_po w=1 l=21
XRbot tap4 gnd  gnd sky130_fd_pr__res_xhigh_po w=1 l=86
C_tap1 tap1 gnd 100f
C_tap2 tap2 gnd 100f
C_tap3 tap3 gnd 100f
C_tap4 tap4 gnd 100f

* =============================================
* COMPARATORS: PFET from PVDD + NFET source=vref
* Trip ≈ vref + Vth_n + body_effect ≈ 2.1V
* =============================================

* COMP1
XMc1ivp c1inv tap1 pvdd pvdd sky130_fd_pr__pfet_g5v0d10v5 w=20e-6 l=20e-6
XMc1ivn c1inv tap1 gnd  gnd  sky130_fd_pr__nfet_g5v0d10v5 w=20e-6 l=20e-6
XMc1iv2p comp1 c1inv pvdd pvdd sky130_fd_pr__pfet_g5v0d10v5 w=40e-6 l=20e-6
XMc1iv2n comp1 c1inv gnd  gnd  sky130_fd_pr__nfet_g5v0d10v5 w=20e-6 l=20e-6

* COMP2
XMc2ivp c2inv tap2 pvdd pvdd sky130_fd_pr__pfet_g5v0d10v5 w=20e-6 l=20e-6
XMc2ivn c2inv tap2 gnd  gnd  sky130_fd_pr__nfet_g5v0d10v5 w=20e-6 l=20e-6
XMc2iv2p comp2 c2inv pvdd pvdd sky130_fd_pr__pfet_g5v0d10v5 w=40e-6 l=20e-6
XMc2iv2n comp2 c2inv gnd  gnd  sky130_fd_pr__nfet_g5v0d10v5 w=20e-6 l=20e-6

* COMP3
XMc3ivp c3inv tap3 pvdd pvdd sky130_fd_pr__pfet_g5v0d10v5 w=20e-6 l=20e-6
XMc3ivn c3inv tap3 gnd  gnd  sky130_fd_pr__nfet_g5v0d10v5 w=20e-6 l=20e-6
XMc3iv2p comp3 c3inv pvdd pvdd sky130_fd_pr__pfet_g5v0d10v5 w=40e-6 l=20e-6
XMc3iv2n comp3 c3inv gnd  gnd  sky130_fd_pr__nfet_g5v0d10v5 w=20e-6 l=20e-6

* COMP4
XMc4ivp c4inv tap4 pvdd pvdd sky130_fd_pr__pfet_g5v0d10v5 w=20e-6 l=20e-6
XMc4ivn c4inv tap4 gnd  gnd  sky130_fd_pr__nfet_g5v0d10v5 w=20e-6 l=20e-6
XMc4iv2p comp4 c4inv pvdd pvdd sky130_fd_pr__pfet_g5v0d10v5 w=40e-6 l=20e-6
XMc4iv2n comp4 c4inv gnd  gnd  sky130_fd_pr__nfet_g5v0d10v5 w=20e-6 l=20e-6

* =============================================
* LOGIC (from BVDD)
* =============================================
XMinv1p comp1b comp1 bvdd bvdd sky130_fd_pr__pfet_g5v0d10v5 w=40e-6 l=20e-6
XMinv1n comp1b comp1 gnd  gnd  sky130_fd_pr__nfet_g5v0d10v5 w=20e-6 l=20e-6
XMinv2p comp2b comp2 bvdd bvdd sky130_fd_pr__pfet_g5v0d10v5 w=40e-6 l=20e-6
XMinv2n comp2b comp2 gnd  gnd  sky130_fd_pr__nfet_g5v0d10v5 w=20e-6 l=20e-6
XMinv3p comp3b comp3 bvdd bvdd sky130_fd_pr__pfet_g5v0d10v5 w=40e-6 l=20e-6
XMinv3n comp3b comp3 gnd  gnd  sky130_fd_pr__nfet_g5v0d10v5 w=20e-6 l=20e-6
XMinv4p comp4b comp4 bvdd bvdd sky130_fd_pr__pfet_g5v0d10v5 w=40e-6 l=20e-6
XMinv4n comp4b comp4 gnd  gnd  sky130_fd_pr__nfet_g5v0d10v5 w=20e-6 l=20e-6

XRpo_pu bvdd pass_off gnd sky130_fd_pr__res_xhigh_po w=1 l=50
XMpo_bufp pass_off comp1b bvdd bvdd sky130_fd_pr__pfet_g5v0d10v5 w=40e-6 l=20e-6
XMpo_bufn pass_off comp1b gnd  gnd  sky130_fd_pr__nfet_g5v0d10v5 w=20e-6 l=20e-6

XMby_n1a by_s1     comp1  gnd gnd sky130_fd_pr__nfet_g5v0d10v5 w=20e-6 l=20e-6
XMby_n1b bypass_enb comp2b by_s1 by_s1 sky130_fd_pr__nfet_g5v0d10v5 w=20e-6 l=20e-6
XMby_n2a by_s2     comp3  gnd gnd sky130_fd_pr__nfet_g5v0d10v5 w=20e-6 l=20e-6
XMby_n2b bypass_enb comp4b by_s2 by_s2 sky130_fd_pr__nfet_g5v0d10v5 w=20e-6 l=20e-6
XMby_p1a by_pmid comp1  bvdd bvdd sky130_fd_pr__pfet_g5v0d10v5 w=40e-6 l=20e-6
XMby_p1b by_pmid comp2b bvdd bvdd sky130_fd_pr__pfet_g5v0d10v5 w=40e-6 l=20e-6
XMby_p2a bypass_enb comp3  by_pmid by_pmid sky130_fd_pr__pfet_g5v0d10v5 w=40e-6 l=20e-6
XMby_p2b bypass_enb comp4b by_pmid by_pmid sky130_fd_pr__pfet_g5v0d10v5 w=40e-6 l=20e-6
XMby_outp bypass_en bypass_enb bvdd bvdd sky130_fd_pr__pfet_g5v0d10v5 w=40e-6 l=20e-6
XMby_outn bypass_en bypass_enb gnd  gnd  sky130_fd_pr__nfet_g5v0d10v5 w=20e-6 l=20e-6

XMea_n1a ea_s1  comp2  gnd gnd sky130_fd_pr__nfet_g5v0d10v5 w=20e-6 l=20e-6
XMea_n1b ea_enb comp3b ea_s1 ea_s1 sky130_fd_pr__nfet_g5v0d10v5 w=20e-6 l=20e-6
XMea_n2  ea_enb comp4  gnd gnd sky130_fd_pr__nfet_g5v0d10v5 w=20e-6 l=20e-6
XMea_p1a ea_pmid comp2  bvdd bvdd sky130_fd_pr__pfet_g5v0d10v5 w=40e-6 l=20e-6
XMea_p1b ea_pmid comp3b bvdd bvdd sky130_fd_pr__pfet_g5v0d10v5 w=40e-6 l=20e-6
XMea_p2  ea_enb  comp4  ea_pmid ea_pmid sky130_fd_pr__pfet_g5v0d10v5 w=40e-6 l=20e-6
XMea_outp ea_en ea_enb bvdd bvdd sky130_fd_pr__pfet_g5v0d10v5 w=40e-6 l=20e-6
XMea_outn ea_en ea_enb gnd  gnd  sky130_fd_pr__nfet_g5v0d10v5 w=20e-6 l=20e-6

XMrs_n1 rs_s1    comp1  gnd gnd sky130_fd_pr__nfet_g5v0d10v5 w=20e-6 l=20e-6
XMrs_n2 ref_selb comp3b rs_s1 rs_s1 sky130_fd_pr__nfet_g5v0d10v5 w=20e-6 l=20e-6
XMrs_p1 ref_selb comp1  bvdd bvdd sky130_fd_pr__pfet_g5v0d10v5 w=40e-6 l=20e-6
XMrs_p2 ref_selb comp3b bvdd bvdd sky130_fd_pr__pfet_g5v0d10v5 w=40e-6 l=20e-6
XMrs_outp ref_sel ref_selb bvdd bvdd sky130_fd_pr__pfet_g5v0d10v5 w=40e-6 l=20e-6
XMrs_outn ref_sel ref_selb gnd  gnd  sky130_fd_pr__nfet_g5v0d10v5 w=20e-6 l=20e-6

XMuv_p1 uvov_enb comp4 bvdd bvdd sky130_fd_pr__pfet_g5v0d10v5 w=40e-6 l=20e-6
XMuv_n1 uvov_enb comp4 gnd  gnd  sky130_fd_pr__nfet_g5v0d10v5 w=20e-6 l=20e-6
XMuv_p2 uvov_en uvov_enb bvdd bvdd sky130_fd_pr__pfet_g5v0d10v5 w=40e-6 l=20e-6
XMuv_n2 uvov_en uvov_enb gnd  gnd  sky130_fd_pr__nfet_g5v0d10v5 w=20e-6 l=20e-6

XMil_p1 ilim_enb comp4 bvdd bvdd sky130_fd_pr__pfet_g5v0d10v5 w=40e-6 l=20e-6
XMil_n1 ilim_enb comp4 gnd  gnd  sky130_fd_pr__nfet_g5v0d10v5 w=20e-6 l=20e-6
XMil_p2 ilim_en ilim_enb bvdd bvdd sky130_fd_pr__pfet_g5v0d10v5 w=40e-6 l=20e-6
XMil_n2 ilim_en ilim_enb gnd  gnd  sky130_fd_pr__nfet_g5v0d10v5 w=20e-6 l=20e-6

.ends mode_control
